US09238656B2
(1S,2S,3R,4R)-3-{2-[4-(4-Acetyl-piperazin-1-ylmethyl)-phenyl]-6-bromo-3H-imidazo[4,5-b]pyridin-7-ylamino}-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CLVI)
4-{4-[6-Bromo-7-((1R,2R,3S,4S)-3-carbamoyl-bicyclo[2.2.1]hept-5-en-2-ylamino)-3H-imidazo[4,5-b]pyridin-2-yl]-benzyl}-piperazine-1-carboxylic acid tert-butyl ester (172 mg, 0.276 mmol) was taken up into DCM and treated with TFA (3 ml) and stirred @ 40° C., O/N. the solution was then concentrated. The residue was taken up into methanol and treated with 900 mg mp carbonate for ½ hour. The resin was removed by filtration and filtrate concentrated. The residue was taken up into DCM/THF (˜30 mL) and acetic anhydride (0.56 ml, 5.9 mmol) was added followed by triethylamine (0.56 ml, 4.0 mmol). Solution was stirred at RT for 1 hr and then concentrated. The residue was purified via reverse phase chromotography using a gradient of MeCN with 0.1% TFA in Water with 0.1% TFA on a Phenomenex Gemini-NX C18 AXIA column. Fractions containing desired product were poured into sat'd sodium bicarbonate and extracted with 3 portions of methylene chloride. The combined organic was dried over magnesium sulfate, filtered and evaporated to yield an off white solid, 28 mg, 18% yield. (300 MHz, DMSO-d6) 13.28 (s, 1H), 8.10 (d, J=8 Hz, 2H), 8.02 (s, 1H), 7.75 (m, 1H), 7.48 (d, J=8 Hz, 2H), 7.19 (m, 2H), 6.44-6.33 (m, 2H), 5.23 (t, J=17 Hz, 9 Hz, 1H), 3.56 (s, 2H), 3.43 (s, 4H), 2.89 (s, 1H), 2.78 (s, 1H), 2.62 (d, J=8 Hz, 1H), 2.39 (s, 2H), 2.33 (s, 2H), 2.25 (d, J=8 Hz, 1H), 1.98 (s, 3H), 1.38 (d, J=8 Hz, 1H). MS=565 (M+H), HPLC: 1.5 min. (G Method)

reactant | 4-{4-[6-Bromo-7-((1R,2R,3S,4S)-3-carbamoyl-bicyclo[2.2.1]hept-5-en-2-ylamino)-3H-imidazo[4,5-b]pyridin-2-yl]-benzyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.276 mmol, 172 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)C1=NC=2C(=NC=C(C2N[C@@H]2[C@H]3C=C[C@@H]([C@@H]2C(N)=O)C3)Br)N1 | C30H36BrN7O3
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetic anhydride | 5.9 mmol, 0.56 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 4.0 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
solvent | DCM THF | ˜30 mL | C(Cl)Cl.C1CCOC1
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (1S,2S,3R,4R)-3-{2-[4-(4-Acetyl-piperazin-1-ylmethyl)-phenyl]-6-bromo-3H-imidazo[4,5-b]pyridin-7-ylamino}-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 18% yield | C(C)(=O)N1CCN(CC1)CC1=CC=C(C=C1)C1=NC=2C(=NC=C(C2N[C@H]2[C@H]([C@@H]3C=C[C@H]2C3)C(=O)N)Br)N1 | C27H30BrN7O2
